US08168634B2
1-(4-Amino-3-iodophenyl)-2,2,2-trifluoroethanone
To a stirred solution of 1-(4-aminophenyl)-2,2,2-trifluoroethanone (1.0 g, 5.28 mmol) in 1M aqueous HCl solution (70 mL) was added iodine monochloride (0.77 g, 4.76 mmol). The reaction mixture was stirred at r.t. for 2 h, then basified with the addition of aqueous sat. NaHCO3 solution and extracted with EtOAc (2×100 mL). The combined organic fractions were dried (Na2SO4), filtered and concentrated in vacuo. Purification by column chromatography (SiO2, 15-20% EtOAc/hexanes) gave the title compound (0.983 g, 59%) as a cream solid. δH (CDCl3) 8.40 (1H, d, J 1.0 Hz), 7.92-7.85 (1H, m), 6.76 (1H, d, J 8.6 Hz), 4.91 (2H, br. s). LCMS (ES+) RT 2.86 minutes (Method 2).

reactant | 1-(4-aminophenyl)-2,2,2-trifluoroethanone | 5.28 mmol, 1.0 g | NC1=CC=C(C=C1)C(C(F)(F)F)=O | C8H6F3NO
reactant | iodine monochloride | 4.76 mmol, 0.77 g | ICl | ClI
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 1M, 70 mL | Cl | ClH
product | 1-(4-Amino-3-iodophenyl)-2,2,2-trifluoroethanone | 0.983 g, 59% | NC1=C(C=C(C=C1)C(C(F)(F)F)=O)I | C8H5F3INO
